US04229464
20.0 g 4-benzyloxy-2-ethoxycarbonyl-6-methyl indole (see preparation of the primary products in connection with Example 1) are heated together with 200 ml each of methanol and liquid ammonia in the autoclave for 16 hours, to 100° C. The solution is evaporated and the residue is chromatographed on silica gel (fluxing agent: chloroform/methanol 98:2). There is obtained 8.5 g (~46% of theory) 4-benzyloxy-2-carbamoyl-6-methyl indole; m.p. 185°-187° C.

reactant | 4-benzyloxy-2-ethoxycarbonyl-6-methyl indole | 20.0 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC(=C1)C)C(=O)OCC | C19H19NO3
reactant | ammonia | N | H3N
solvent | methanol | 200 ml | CO | CH4O
product | 4-benzyloxy-2-carbamoyl-6-methyl indole | 8.5 g, ~46% | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC(=C1)C)C(N)=O | C17H16N2O2
